US08486952B2
A solution of 2,4-dichloro-7-(4-(trifluoromethoxy)phenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (250 mg, 0.716 mmol) and dimethylamine (0.716 mL, 1.432 mmol) in MeOH (2 mL) was stirred at rt for 1 h. The solvent was removed in vacuum and the crude product was purified by column chromatography on silica gel to afford 2-chloro-N,N-dimethyl-7-(4-(trifluoromethoxy)phenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (250 mg, 0.699 mmol, 98% yield). LC-MS (M+H)+=358.0.

reactant | 2,4-dichloro-7-(4-(trifluoromethoxy)phenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.716 mmol, 250 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)OC(F)(F)F)Cl | C14H9Cl2F3N2O
reactant | dimethylamine | 1.432 mmol, 0.716 mL | CNC | C2H7N
solvent | MeOH | 2 mL | CO | CH4O
product | 2-chloro-N,N-dimethyl-7-(4-(trifluoromethoxy)phenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.699 mmol, 250 mg, 98% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)OC(F)(F)F)N(C)C | C16H15ClF3N3O
